US05919793
Allyl bromide (3.37 g) was added to a stirred suspension of ethyl 4-hydroxyphenoxyacetate (5.14 g) [prepared by method of Moser, J.A.C.S., (1950), 72, 1413) and potassium carbonate (3.90 g) in butan-2-one (50 ml). The reaction mixture was heated at reflux for 12 hours. The reaction mixture was cooled to ambient temperature and then filtered. The filtrate was evaporated to give an oil which was purified by column chromatography on silica gel (Merck. Art. No. 7734) using a 4:1 (v/v) mixture of hexane and ethylacetate as eluent to give ethyl 4-allyloxyphenoxyacetate (6.41 g) as a colourless oil; microanalysis, found: C, 65.8; H, 7.20%; C13H16O4 requires C, 66.1; H, 6.83%; NMR (CDCl3): 1.28 (3H, t), 4.25 (2H, q), 4.48 (2H, m), 4.57 (2H, s), 5.22-5.44 (2H, m), 5.92-6.12 (1H, m) and 6.84 (4H, s).

reactant | Allyl bromide | 3.37 g | C(C=C)Br | C3H5Br
reactant | ethyl 4-hydroxyphenoxyacetate | 5.14 g | OC1=CC=C(OCC(=O)OCC)C=C1 | C10H12O4
reactant | potassium carbonate | 3.90 g | C([O-])([O-])=O.[K+].[K+]
solvent | butan-2-one | 50 ml | CC(CC)=O | C4H8O
product | ethyl 4-allyloxyphenoxyacetate | 6.41 g | C(C=C)OC1=CC=C(OCC(=O)OCC)C=C1 | C13H16O4
